US07626056B2
A mixture of 2-chloro-6-(trifluoromethyl)nicotinic acid (2 g, 8.9 mmol) and sodium methoxide (1.9 g, 36 mmol) in methanol (20 mL) was heated at reflux for 48 hours. The mixture was allowed to cool to room temperature then poured into water (50 mL). This was cooled in an ice-bath and acidified with hydrochloric acid (2 N, aq). The resulting precipitate was filtered and dried to give 2-methoxy-6-(trifluoromethyl)nicotinic acid as a white solid (1.1 g): 1H NMR (400 MHz, CDCl3): δ 8.61 (1H, d, J 7.7), 7.48 (1H, d, J 7.7), 4.25 (3H, s).

reactant | 2-chloro-6-(trifluoromethyl)nicotinic acid | 8.9 mmol, 2 g | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | sodium methoxide | 36 mmol, 1.9 g | C[O-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-methoxy-6-(trifluoromethyl)nicotinic acid | 1.1 g | COC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO3
